US08937087B2
To a mixture of (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetic acid (300 mg), N-methyl-1-[5-(trifluoromethyl)-1H-benzimidazol-2-yl]methanamine dihydrochloride (420 mg), and dichloromethane (10 mL) were added TEA (552 μL), HOBt (214 mg), and WSC.HCl (303 mg), followed by stirring at room temperature overnight. The reaction mixture was diluted with EtOAc. The organic layer was washed with water, a saturated aqueous NaHCO3 solution, and brine in this order, dried over Na2SO4, and then concentrated under reduced pressure. The resulting solid was collected by filtration and washed with EtOAc. To a mixture of the obtained solid (325 mg) and MeOH (5 mL) was added 4 M hydrogen chloride/EtOAc (330 μL), followed by stirring at room temperature for 1 hour. To the reaction mixture was added EtOAc. The resulting solid was collected by filtration and then washed with EtOAc to obtain 2-(5-chloro-2-oxo-1,3-benzoxazol-3 (2H)-yl)-N-methyl-N-{[5-(trifluoromethyl)-1H-benzimidazol-2-yl]methyl}acetamide hydrochloride (277 mg).

reactant | (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetic acid | 300 mg | ClC=1C=CC2=C(N(C(O2)=O)CC(=O)O)C1 | C9H6ClNO4
reactant | N-methyl-1-[5-(trifluoromethyl)-1H-benzimidazol-2-yl]methanamine dihydrochloride | 420 mg | Cl.Cl.CNCC1=NC2=C(N1)C=CC(=C2)C(F)(F)F
reactant | HOBt | 214 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 303 mg | CCN=C=NCCCN(C)C.Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(5-chloro-2-oxo-1,3-benzoxazol-3 (2H)-yl)-N-methyl-N-{[5-(trifluoromethyl)-1H-benzimidazol-2-yl]methyl}acetamide hydrochloride | 277 mg | Cl.ClC=1C=CC2=C(N(C(O2)=O)CC(=O)N(CC2=NC3=C(N2)C=CC(=C3)C(F)(F)F)C)C1 | InChI=1S/C19H14ClF3N4O3.ClH/c1-26(8-16-24-12-4-2-10(19(21,22)23)6-13(12)25-16)17(28)9-27-14-7-11(20)3-5-15(14)30-18(27)29;/h2-7H,8-9H2,1H3,(H,24,25);1H
